US09388161B2
A 1.5 mL reaction vial was charged with (S)-1-(6-bromo-5-cyclopropoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.019 g, 0.06 mmol) and 1,4-dioxane (50 μL). 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.2 M solution in 1,4-dioxane, 540 μL, 0.108 mmol) and potassium carbonate (1 M solution in water, 180 μL, 0.18 mmol) were added, and the reaction mixture was purged with nitrogen. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.02 M solution in 1,2-dichloroethane, 300 μL, 0.006 mmol) was added, and the reaction was purged with nitrogen and heated to 80° C. on a heater shaker overnight. The reaction was diluted with ethyl acetate and washed with 1 N aqueous sodium hydroxide solution. The aqueous layer was separated and washed with ethyl acetate, and the combined organic layers were concentrated under a stream of nitrogen. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford (S)-1-(5-cyclopropoxy-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1 (2H)-yl)ethanone (0.0039 g, 19%). MS (ESI, pos. ion) m/z 352 [M+H]+.

reactant | (S)-1-(6-bromo-5-cyclopropoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.06 mmol, 0.019 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1CC1 | C15H18BrNO2
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.108 mmol, 0.2 M, 540 μL | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | potassium carbonate | 0.18 mmol, 1 M, 180 μL | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.006 mmol, 0.02 M, 300 μL | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | 1,4-dioxane | 50 μL | O1CCOCC1 | C4H8O2
product | (S)-1-(5-cyclopropoxy-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1 (2H)-yl)ethanone | 0.0039 g, 19% | C1(CC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(C)=O)C | C21H25N3O2
